US07989457B2
Step D. 3-(3-Fluoro-4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoylamino)-propionic acid
Add sodium hydroxide (5.0N, 0.07 mL, 0.34 mmol) to 3-(3-fluoro-4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoylamino)-propionic acid methyl ester (0.038 g, 0.07 mmol) in methanol (0.5 mL) and stir for three hours. Acidify with 1.0 N HCl and extract desired compound with ethyl acetate three times. Dry organic fractions with Na2SO4, filter and concentrate under reduced pressure to provide 0.025 g (66%) of title compound. MS (ESI) m/z 547.2 (M++H).

reactant | sodium hydroxide | 0.34 mmol, 5.0N, 0.07 mL | [OH-].[Na+]
reactant | 3-(3-fluoro-4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoylamino)-propionic acid methyl ester | 0.07 mmol, 0.038 g | COC(CCNC(C1=CC(=C(C=C1)OC(CCCCCC)C=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)F)=O)=O | C30H32F4N2O4
solvent | methanol | 0.5 mL | CO | CH4O
product | 3-(3-Fluoro-4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoylamino)-propionic acid | 0.025 g, 66% | FC=1C=C(C(=O)NCCC(=O)O)C=CC1OC(CCCCCC)C=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F | C29H30F4N2O4
